US05631257
A 500 mg portion of 2-amino-5-nitrophenol dissolved in 35 ml of ethanol was mixed with 180 mg of potassium hydroxide. After 10 minutes of reaction, the resulting solution was mixed with 35 ml of carbon disulfide and refluxed under heating for 48 hours. The reaction mixture was concentrated under a reduced pressure, and the resulting residue was dissolved in 300 ml of ethyl acetate and washed with an aqueous acidic solution of hydrochloric acid (pH 4) and water in that order. The resulting ethyl acetate layers were combined, dehydrated with sodium sulfate and then concentrated under a reduced pressure. Thereafter, the resulting residue was purified by a silica gel column chromatography (chloroform) to obtain 629 mg of 2-mercapto-6-nitrobenzoxazole.

reactant | 2-amino-5-nitrophenol | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | potassium hydroxide | 180 mg | [OH-].[K+]
reactant | carbon disulfide | 35 ml | C(=S)=S | CS2
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 2-mercapto-6-nitrobenzoxazole | 629 mg | SC=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H4N2O3S
